US07932271B2
3-[(2,5-Dichloropyridin-4-yl)hydroxymethyl]-4-fluorobenzonitrile
Diisopropylamine (0.52 ml, 3.70 mmol) was dissolved in tetrahydrofuran (5 ml). At −78° C., a hexane solution (1.54M, 2.20 ml, 3.39 mmol) of n-butyl lithium was added dropwise to the resulting solution. The reaction mixture was stirred at the same temperature for 30 minutes. A tetrahydrofuran solution (20 ml) of 2,5-dichloropyridine (0.46 g, 3.08 mmol) was added dropwise to the reaction mixture. After stirring further at the same temperature for 1 hour, a tetrahydrofuran solution (5 ml) of 5-cyano-2-fluorobenzaldehyde (0.46 g, 3.08 mmol) was added dropwise to the reaction mixture. The resulting mixture was stirred at the same temperature for 30 minutes. To the reaction mixture was added a saturated aqueous solution of ammonium chloride, followed by extraction with ethyl acetate. The organic layers were combined, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under reduced pressure. The residue thus obtained was subjected to silica gel chromatography. The fraction obtained from the n-hexane:ethyl acetate=10:2 eluate was concentrated under reduced pressure to give the title compound (0.68 g, 2.28 mmol, 74%) as a pale yellowish brown oil.

reactant | Diisopropylamine | 3.70 mmol, 0.52 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | C(CCC)[Li]
reactant | 2,5-dichloropyridine | 3.08 mmol, 0.46 g | ClC1=NC=C(C=C1)Cl | C5H3Cl2N
reactant | 5-cyano-2-fluorobenzaldehyde | 3.08 mmol, 0.46 g | C(#N)C=1C=CC(=C(C=O)C1)F | C8H4FNO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | n-hexane | CCCCCC | C6H14
solvent | hexane | 3.39 mmol, 1.54M, 2.20 ml | CCCCCC | C6H14
product | 3-[(2,5-Dichloropyridin-4-yl)hydroxymethyl]-4-fluorobenzonitrile | 2.28 mmol, 0.68 g, 74% | ClC1=NC=C(C(=C1)C(C=1C=C(C#N)C=CC1F)O)Cl | C13H7Cl2FN2O
